US05543298
5,6-Dimethoxy-1-(4-methoxyphenyl)indane
A solution of 5,6-dimethoxy-3-(4-methoxyphenyl)indene (1.5 g, 5.32 mmol) in 60 ml of ethanol is hydrogenated in an autoclave in the presence of palladium on carbon (10%, 25 mg) under 5 bars of hydrogen for 1.5 h. After filtration of the catalyst, the evaporation of the solvent gives an oil which gradually solidifies (1.5 g, 100%).

reactant | 5,6-dimethoxy-3-(4-methoxyphenyl)indene | 5.32 mmol, 1.5 g | COC=1C=C2C(=CCC2=CC1OC)C1=CC=C(C=C1)OC | C18H18O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
product | 5,6-Dimethoxy-1-(4-methoxyphenyl)indane | COC=1C=C2CCC(C2=CC1OC)C1=CC=C(C=C1)OC | C18H20O3
